data/pmechdb/original/mc_train_fold0/raw/train.txt
COC(=O)C1=CC=C(C=C1)CO[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[Br:11].C(Br)(Br)Br>>COC(=O)C1=CC=C(C=C1)CO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:11].C(Br)(Br)Br 10,11=11
C[CH+:20]C.CC(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>C[CH:20](C)[CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)C(C)C 10,11=10,20;12,13=11,12
C[CH+:20]C.C1=CC2=C(C=C1)[C:13](=[CH:12][CH:11]=[CH:10]2)Br>>C[CH:20](C)[CH:10]1[CH:11]=[CH:12][C+:13](C2=C1C=CC=C2)Br 10,11=10,20;12,13=11,12
[B:20](F)(F)F.CC(C)(C)[Si](C)(C)OC1=C(C(=CC=C1C(C(C2=CC(=C(C(=C2)OC)OC)OC)[OH:10])O)OC)O[Si](C)(C)C(C)(C)C.CCOCC>>[B-:20]([OH+:10]C(C1=CC(=C(C(=C1)OC)OC)OC)C(C2=CC=C(C(=C2O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC)O)(F)(F)F.CCOCC 10=20,
[H:20][OH+:21]C.CC(=[NH:10])O[Si-](C)(C)(C)OS(=O)(=O)C>>[H:20][NH+:10]=C(C)O[Si-](C)(C)(C)OS(=O)(=O)C.C[OH:21] 10=20;20,21=21
C[OH:10].CO[CH:20]=[OH+:21].[Cl-]>>C[OH+:10][CH:20]([OH:21])OC.[Cl-] 10=20;20,21=21
C[CH+:20]C.CC(=O)C1=C[CH:11]=[CH:10]O1>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)C(=O)C 10,11=10,20
[H:20][O+:21](C(C1=CC=C2C(=C1)C3=C(N2C)C=CC=C3)O)O.C[OH:10]>>[H:20][OH+:10]C.CN1C2=C(C=CC=C2)C3=CC(=CC=C31)C(O)[O:21]O 10=20;20,21=21
CC[OH:10].C[C+:20](C)Br>>CC[OH+:10][C:20](C)(C)Br 10=20,
[H:20][OH+:21]C(C(CC)O)(O)OCC[NH3+].[Cl-:10]>>CCC(C(O)([OH:21])OCC[NH3+])O.[H:20][Cl:10] 10=20;20,21=21
CCOC(=O)C(CC(=[O:10])C)[C:20](=[OH+:21])C.CO.OS(=O)(=O)[O-]>>CCOC(=O)C1CC(=[O+:10][C:20]1(C)[OH:21])C.CO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH:21].C[Si](C)(C)C1(CC1)C2(CCCCC2)[O-:10].[Li+]>>[H:20][O:10]C1(CCCCC1)C2(CC2)[Si](C)(C)C.[OH-:21].[Li+] 10=20;20,21=21
[H:20][N+:21](CCCC)(CCCC)CCCC.CC(CCC1CCCC1)[NH:10]C(=O)[O-].CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C>>[H:20][NH+:10](C(C)CCC1CCCC1)C(=O)[O-].CCCC[N:21](CCCC)CCCC.CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C 10=20;20,21=21
C1C(CC1=O)[C:20](=[OH+:21])O.C1=CC=C(C=C1)C[OH:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1C(CC1=O)[C:20](O)([OH:21])[OH+:10]CC2=CC=CC=C2.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C1C(C2C[C:20](=[O:21])OC2C1I)[O-:10].O>>C1C2C3C[C:20](OC3C1I)([O-:21])[O:10]2.O 10=20;20,21=21
[B-]([O+:21]1CCC[O:10][CH2:20]1)(F)(F)F>>[B-]([O:21]CCC[O+:10]=[CH2:20])(F)(F)F 10=20;20,21=21
C[S:10]C.[Br:20][Br:21]>>C[S+:10](C)[Br:20].[Br-:21] 10=20;20,21=21
[H:20][CH:21]([CH+:22]C)Br.[OH2:10]>>[H:20][OH2+:10].C[CH:22]=[CH:21]Br 10=20;20,21=21,22
[CH:20](=[NH2+:21])O.[OH2:10].[Cl-]>>[CH:20]([NH2:21])([OH2+:10])O.[Cl-] 10=20;20,21=21
[H:20][P+:21](OC)(I)I.C[OH:10]>>[H:20][OH+:10]C.CO[P:21](I)I 10=20;20,21=21
[H:20][C:21]12C3CCC[C:22]1=[O+:23]C(C2C(=O)CC3)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].C1=CC=CC=C1>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CC2CCC(=O)C3[C:21]2=[C:22](C1)[O:23]C3O.C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
C[CH:20]([C:21](Cl)(Cl)Cl)[O-:10]>>C[CH:20]=[O:10].[C-:21](Cl)(Cl)Cl 10=20;20,21=21
CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[NH2+:21][P:20](C5=CC=CC=C5)(C6=CC=CC=C6)(C7=CC=CC=C7)[O-:10])OC)OCC8=CC=C(C=C8)OC)OC.N#N.O>>CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[NH2:21])OC)OCC5=CC=C(C=C5)OC)OC.C1=CC=C(C=C1)[P:20](=[O:10])(C2=CC=CC=C2)C3=CC=CC=C3.N#N.O 10=20;20,21=21
[H:20][NH+:21](C1=CC=CC=C1C(=O)O)N=O.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C(=C1)C(=O)O)[NH:21]N=O 10=20;20,21=21
[B-]([O:10]CCC[N+:21](=[CH:20]C)C)(F)(F)F>>[B-]([O+:10]1CCC[N:21]([CH:20]1C)C)(F)(F)F 10=20;20,21=21
C[Si](C)(C)[O+:11](C1CC(CC1=C=C)C2=CC=CC=C2)[Zn-:10](Cl)Cl.[Cl-]>>C[Si](C)(C)[O:11]C1CC(CC1=C=C)C2=CC=CC=C2.Cl[Zn:10]Cl.[Cl-] 10,11=11
C1OC2=CC(=C(C=C2O1)Br)[CH:20]([OH2+:21])[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>C1OC2=CC(=C(C=C2O1)Br)[CH:20]=[O+:10]CCO.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
CC[C:20](C)([OH2+:21])[O:10]CC(CO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC[C:20](=[O+:10]CC(CO)O)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(=O)C)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=C(C=C2)C(=O)C 10=20;20,21=21,22
CC(=C)C(C1[CH:20]([O:21]1)C(C)(C)[O-:10])OS(=O)(=O)C.CC(C)(C)O>>CC(=C)C(C([CH:20]1C([O:10]1)(C)C)[O-:21])OS(=O)(=O)C.CC(C)(C)O 10=20;20,21=21
CCOC(=O)[C:20](C(C)C(=O)C)([O-:10])[O:21]CC>>CC[O-:21].CCOC(=O)[C:20](=[O:10])C(C)C(=O)C 10=20;20,21=21
[H:20][N+:21]1(CCN(CC1)C2=CC=CC=C2)C3(CCC(CC3)OC(=O)C4=CC=CC=C4)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1CC(CCC1OC(=O)C2=CC=CC=C2)([N:21]3CCN(CC3)C4=CC=CC=C4)O 10=20;20,21=21
[Li+:20].CC(C=CC1=CC=CC=C1)[O-:10].CCCC[Al](CC(C)C)CC(C)C>>[Li:20][O:10]C(C)C=CC1=CC=CC=C1.CCCC[Al](CC(C)C)CC(C)C 10=20,
CCC(C)C(C(=O)NCC(=O)NC(C)C(=O)O)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCC(=O)NC(C)C(=O)O)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
COC1=CC=C(C=C1)CCO[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[Br:11].C(Br)(Br)Br>>COC1=CC=C(C=C1)CCO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:11].C(Br)(Br)Br 10,11=11
CC(=O)[O-:10].[CH3:20][O:21][P+:22](O)(O)O>>CC(=O)[O:10][CH3:20].O[P:22](=[O:21])(O)O 10=20;20,21=21,22
